US07456177B2
Preparation of 10-Benzyl-4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7), 3,5-triene
To a solution of 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one (1.42 mmol) in ethanol was added potassium carbonate (3.8 mmol) and acetamidine hydrochloride (1.6 mmol). The reaction mixture was heated under reflux overnight. After cooling the solvents were removed and dichloromethane and aqueous sodium bicarbonate solution were added. The dichloromethane layer was separated and dried to and oil. Purification by flash chromatography on silica gel eluted with ethyl acetate yielded product (0.23 mmol). 1H NMR (CD3OD, 400 MHz) δ 8.25 (s, 1H), 7.18 (br s, 3H), 6.85 (br s, 2H), 3.60–3.40 (m, 2H), 3.10 (s, 1H), 3.00 (m, 2H), 2.79 (m, 1H), 2.70 (s, 3H), 2.5 (m, 1H), 2.45 (m, 1H), 2.25 (m, 1H), 1.70 (m, 1H); APCl MS m/z 266.2 (M+H)+.

reactant | 3-benzyl-7-dimethylaminomethylene-3-aza-bicyclo[3.2.1]octan-6-one | 1.42 mmol | C(C1=CC=CC=C1)N1CC2C(C(C(C1)C2)=O)=CN(C)C | C17H22N2O
reactant | potassium carbonate | 3.8 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | acetamidine hydrochloride | 1.6 mmol | Cl.C(C)(=N)N
reactant | ethyl acetate | 0.23 mmol | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | 10-Benzyl-4-methyl-3,5,10-triaza-tricyclo[6.3.1.02,7]dodeca-2(7), 3,5-triene | C(C1=CC=CC=C1)N1CC2C=3C=NC(=NC3C(C1)C2)C | C17H19N3
